US04059638
(b) 2,2,4-Tri-(4'-hydroxyphenyl)-4-methyl-pentane
Hydrogen chloride is introduced for 6 hours at 0° C into a solution of 78.6 g (0.2 mol) of the bischlorocarbonic acid ester of dimeric p-isopropenylphenol prepared according to (a) in 180 ml of toluene and 150 g of phenol. The solvent and excess phenol are removed at reduced pressure and the reaction product is dissolved in 400 ml of methanol, and 200 ml of concentrated sodium hydroxide solution are added dropwise. The reaction mixture is then diluted with an equal quantity of water and heated to reflux. The methanol is distilled off, 400 ml of toluene are added and the tris-phenol is precipitated with dilute hydrochloric acid. The solvent phase is washed with water, dehydrated over sodium sulphate and concentrated by evaporation. After removal of the excess phenol by distillation, a small amount of bisphenol A distils over, which is followed by the tris-phenol fraction which distils over at 270°-280° C/0.05 Torr. Melting point 150°-151° C (from methylene chloride). Yield: 48 g = 66% of theoretical.

reactant | Hydrogen chloride | Cl | ClH
reactant | p-isopropenylphenol | C(=C)(C)C1=CC=C(C=C1)O | C9H10O
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
solvent | phenol | 150 g | C1(=CC=CC=C1)O | C6H6O
product | 2,2,4-Tri-(4'-hydroxyphenyl)-4-methyl-pentane | OC1=CC=C(C=C1)C(C)(CC(C)(C)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C24H26O3
